US07767675B2
Step 1. 2,2-Diethoxy-1-(4-fluorophenyl)ethanone
A mixture of 1-(4-fluorophenyl)-2,2-dihydroxyethanone (4.0 g, 0.024 mol), ethyl orthoformate (7.3 g, 49 mmol), and p-toluenesulfonic acid monohydrate (200 g, 1.05 mol) in dichloromethane (50 mL) was refluxed for 40 min. After cooling to room temperature (RT), the mixture was concentrated under reduced pressure. The residue was purified by flash chromatography eluting with dichloromethane to give the desired product (5.2 g). 1H-NMR (300 MHz, CDCl3): 8.18-8.25 (m, 2H), 7.08-7.16 (m, 2H), 5.18 (s, 1H), 3.58-3.82 (m, 4H), 1.25 (t, J=7.0 Hz, 6H).

reactant | 1-(4-fluorophenyl)-2,2-dihydroxyethanone | 0.024 mol, 4.0 g | FC1=CC=C(C=C1)C(C(O)O)=O | C8H7FO3
reactant | ethyl orthoformate | 49 mmol, 7.3 g | C(OCC)([O-])[O-]
reactant | p-toluenesulfonic acid monohydrate | 1.05 mol, 200 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2,2-Diethoxy-1-(4-fluorophenyl)ethanone | 5.2 g | C(C)OC(C(=O)C1=CC=C(C=C1)F)OCC | C12H15FO3
